US07544688B2
A. 5-[3-(4-Chloromethyl-phenoxy)-prop-1-ynyl]-4-cyclohexylamino-pyrimidine-2-carbonitrile
5-Bromo-4-cyclohexylamino-pyrimidine-2-carbonitrile (0.19 mmol) and chloromethyl-4-prop-2-ynyloxy-benzene (0.22 mmol) in DMF (5 ml) are treated with triethylamine (0.56 mmol), copper (I) iodide (0.019 mmol), and dichlorobis(triphenylphosphine)palladium(II) (0.0093 mmol) at room temperature. The mixture is stirred for 2 h at 65° C., poured into an ice water, extracted with AcOEt. The organic layer is washed with brine, dried over magnesium sulfate and concentrated. The crude product is purified by silica gel column chromatography to give the product in 21% yield. Rf=0.75 (n-hexanes:AcOEt=1:2). 1H-NMR (400 MHz, CDCl3) δ 1.02-1.48 (m, 5H), 1.57-1.78 (m, 3H), 1.80-1.98 (m. 2H), 3.94-4.04 (m, 1H), 4.61(s, 2H), 5.03 (s, 2H), 5.38 (d, 1H), 7.04 (d, 2H), 7.41 (d, 2H), 8.21 (s, 1H).

reactant | 5-Bromo-4-cyclohexylamino-pyrimidine-2-carbonitrile | 0.19 mmol | BrC=1C(=NC(=NC1)C#N)NC1CCCCC1 | C11H13BrN4
reactant | chloromethyl-4-prop-2-ynyloxy-benzene | 0.22 mmol | ClCC1=CC=C(C=C1)OCC#C | C10H9ClO
reactant | triethylamine | 0.56 mmol | C(C)N(CC)CC | C6H15N
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 0.019 mmol | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.0093 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-[3-(4-Chloromethyl-phenoxy)-prop-1-ynyl]-4-cyclohexylamino-pyrimidine-2-carbonitrile | 21% yield | ClCC1=CC=C(OCC#CC=2C(=NC(=NC2)C#N)NC2CCCCC2)C=C1 | C21H21ClN4O
